US04649146
To a mixture of 4-methyl-2-tritylamino-5-thiazolecarboxylic acid (7.2 g) and 2-(3,4-dimethoxyphenyl)ethylamine (3.26 g) in N,N-dimethylformamide (100 ml) were added 1-hydroxybenzotriazole (2.92 g) and dicyclohexylcarbodiimide (4.45 g) and the mixture was stirred at ambient temperature for 1 hour. After filteration, the filtrate was evaporated under reduced pressure. The residue was dissolved in chloroform-methanol (9:1 v/v, 20 ml), removed undissolved materials by filtration, and the filtrate was subjected to column chromatography on silica gel to give N-[2-(3,4-dimethoxyphenyl)ethyl]-4-methyl-2-tritylamino-5-thiazolecarboxamide (8.65 g).

reactant | 4-methyl-2-tritylamino-5-thiazolecarboxylic acid | 7.2 g | CC=1N=C(SC1C(=O)O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2S
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 3.26 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 1-hydroxybenzotriazole | 2.92 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 4.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-4-methyl-2-tritylamino-5-thiazolecarboxamide | 8.65 g | COC=1C=C(C=CC1OC)CCNC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C34H33N3O3S
